* Generated by Xic from cell noname
.tran 1p 1n
K1 L0 L1 .41
L0 11 0 20.7p
L1 JTL1 LOUT 20.7p
R0 10 11 1M
R1 VCLK DCIN 1k
R2 DCOUT 0 10.8
R3 RGND 0 1.2
Vbias VCC 0 pwl 0 0 10p 10m
Vclk VCLK 0 pulse 0 500m 20p 50p 50p 100p 300p
Vdelay 0 10
X0 DCIN SFQIN VCC dcsfq
X1 JTL2 DCOUT RGND VCC sfqdc
X2 SFQIN JTL1 VCC jtl
X3 LOUT JTL2 VCC jtl
.subckt dcsfq IN OUT VBIAS
B0 9 5 15 jjr area=.17
B1 10 11 16 jjr area=.25
B2 12 13 17 jjr area=.15
B3 7 14 18 jjr area=.17
L0 12 0 3.58pH
LP0 8 6 0.08pH
LP1 4 9 1.29pH
LP2 5 6 1.13pH
LP3 6 10 1.74pH
LP4 5 7 0.21pH
LP5 4 12 1.27pH
LP6 11 0 0.13pH
LP7 13 7 0.69pH
LP8 14 0 0.18pH
LT0 10 OUT 2.11pH
LT1 IN 4 3.38pH
R0 VBIAS 8 27
.ends dcsfq
.subckt sfqdc IN OUT RGND VBIAS
B0 15 0 32 jjr area=.34
B1 17 16 33 jjr area=.17
B2 18 6 34 jjr area=.25
B3 19 20 35 jjr area=.22
B4 9 21 36 jjr area=.13
B5 22 24 37 jjr area=.3
B6 20 25 38 jjr area=.22
B7 23 26 39 jjr area=.22
B8 28 30 40 jjr area=.17
B9 29 31 41 jjr area=.34
L0 10 18 11.3pH
LP0 16 0 0.13pH
LP1 5 6 .26pH
LP2 8 11 0.08pH
LP3 22 11 0.50pH
LP4 21 23 0.45pH
LP5 10 23 0.26pH
LP6 24 0 0.11pH
LP7 26 0 0.40pH
LP8 12 14 0.53pH
LP9 27 29 .53pH
LP10 28 14 0.16pH
LP11 31 0 0.16pH
LP12 30 0 0.11pH
LT0 15 7 1.84pH
LT1 6 RGND 0.63pH
LT2 17 7 0.84pH
LT3 17 19 0.50pH
LT4 7 9 1.87pH
LT5 IN 22 1.98pH
LT6 11 20 1.29pH
LT7 10 OUT 0.24pH
LT8 9 13 2.00pH
LT9 25 28 0.55pH
LT10 14 13 1.34pH
LT11 13 29 1.08pH
R0 5 VBIAS 22
R1 VBIAS 8 31
R2 VBIAS 12 57
R3 VBIAS 27 44
.ends sfqdc
.subckt jtl IN OUT VBIAS
B0 5 7 9 jjr area=.25
B1 6 8 10 jjr area=.25
LP0 7 0 .1pH
LP1 8 0 .1pH
LT0 IN 5 2.1pH
LT1 5 4 2.1pH
LT2 4 6 2.1pH
LT3 6 OUT 2.1pH
R0 VBIAS 4 29
.ends jtl
.model jjr jj(rtype=1, cct=1, icon=10m, vg=2.8m, delv=0.08m,
+ icrit=1m, vshunt=0.5mV cap=1.31p)

